US06054410
bentazone
clomazone (dimethazone), diflufenican, fluorochloridone, flupoxam, fluridone, pyrazolate, sulcotrione (chlormesulone)

reactant | clomazone | CC1(CON(C1=O)CC=2C=CC=CC2Cl)C | C12H14ClNO2
reactant | diflufenican | C=1C=C(C=C(C1)OC2=C(C=CC=N2)C(=O)NC=3C=CC(=CC3F)F)C(F)(F)F | C19H11F5N2O2
reactant | fluorochloridone | C1C(C(C(=O)N1C2=CC=CC(=C2)C(F)(F)F)Cl)CCl | C12H10Cl2F3NO
reactant | flupoxam | C1=CC=C(C=C1)C2=NC(=NN2C3=CC(=C(C=C3)Cl)COCC(C(F)(F)F)(F)F)C(=O)N | C19H14ClF5N4O2
reactant | fluridone | CN1C=C(C(=O)C(=C1)C2=CC(=CC=C2)C(F)(F)F)C3=CC=CC=C3 | C19H14F3NO
reactant | pyrazolate | N1N=C(C=C1)C(=O)[O-]
reactant | sulcotrione | CS(=O)(=O)C=1C=CC(=C(C1)Cl)C(=O)C2C(=O)CCCC2=O | C14H13ClO5S
product | bentazone | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O | C10H12N2O3S
